US08222417B2
Synthesis of 3,4-dihydro-2H-1,4-benzoxazine
To a solution of 2-aminophenol (8.01 g) in N,N-dimethylformamide (70 ml), potassium carbonate (51.0 g) and 1,2-dibromoethane (9.5 ml) were added and stirred at 130° C. for 7.5 hours and then at room temperature for 3 days. After addition of additional 1,2-dibromoethane (9.5 ml), the reaction mixture was stirred at 130° C. for 6 hours. The reaction mixture was diluted with ice-cold water and extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate. After the desiccant was filtered off, the solvent was distilled off under reduced pressure and the resulting residue was purified by silica gel column chromatography (eluting solvent: n-hexane:ethyl acetate=20:1 to 5:1) to give the titled compound, i.e., 3,4-dihydro-2H-1,4-benzoxazine (3.77 g) as a brown oil.

reactant | 2-aminophenol | 8.01 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | potassium carbonate | 51.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 9.5 ml | BrCCBr | C2H4Br2
reactant | 1,2-dibromoethane | 9.5 ml | BrCCBr | C2H4Br2
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 3,4-dihydro-2H-1,4-benzoxazine | 3.77 g | O1CCNC2=C1C=CC=C2 | C8H9NO
